US04175137
A mixture of 52 g of 4-hydroxydiphenyl ether and 23.5 g of 1,2-epoxycyclopentane is heated to 150° C. To this melt are added in the course of 25 minutes 6.7 g of 90% potassium hydroxide powder and the mixture is stirred for one hour at 130° C. After cooling, the reaction mixture is taken up in ether/hexane (1:1) and the organic solution is washed 4 times with 10% potassium hydroxide solution and 3 times with saturated sodium chloride solution. The organic phase is dried over sodium sulphate and concentrated by rotary evaporation under reduced pressure. Distillation of the crude product yields 2-(4-phenoxyphenoxy)-cyclopentan-1-ol as a colourless oil with a boiling point of 181°-185° C./0.001 torr and a refractive index of nD20 =1.5812.

reactant | 4-hydroxydiphenyl ether | 52 g | C1=CC=C(C=C1)OC2=CC=C(C=C2)O | C12H10O2
reactant | 1,2-epoxycyclopentane | 23.5 g | O1C2C1CCC2 | C5H8O
reactant | potassium hydroxide | 6.7 g | [OH-].[K+]
solvent | ether hexane | CCOCC.CCCCCC
product | 2-(4-phenoxyphenoxy)-cyclopentan-1-ol | O(C1=CC=CC=C1)C1=CC=C(OC2C(CCC2)O)C=C1 | C17H18O3
